US04252803
(i) 5-Bromo-3-(3-chloropropyl)-1H-indole
5-Chloropentanal (ca. 70% pure, 8.0 g) was added to a suspension of 4-bromophenylhydrazine hydrochloride (13.4 g) in aqueous acetic acid (50%, 300 ml). The mixture was heated rapidly to boiling with vigorous stirring and maintained at reflux for 7 hours. The resulting dark brown solution was cooled to room temperature, diluted with water (300 ml) and extracted with ethyl acetate (4×150 ml). The combined extracts were washed with water (200 ml) and saturated aqueous sodium hydrogen carbonate (4×250 ml), dried (MgSO4), filtered and evaporated to a dark brown oil (14.7 g), which was purified on a silica column (Kieselgel 60, 200 g) eluted with ethyl acetate:light petroleum (b.p. 60°-80°) (1:2) followed by bulb to bulb distillation twice in vacuo to give the title compound as a yellow oil (4 g) b.p. 200° C., 0.5 mm, which rapidly darkened on storage.

reactant | 5-Chloropentanal | 8.0 g | ClCCCCC=O | C5H9ClO
reactant | 4-bromophenylhydrazine hydrochloride | 13.4 g | Cl.BrC1=CC=C(C=C1)NN
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | water | 300 ml | O | H2O
product | 5-Bromo-3-(3-chloropropyl)-1H-indole | 4 g | BrC=1C=C2C(=CNC2=CC1)CCCCl | C11H11BrClN
